US05047432
Sodium cyanoborohydride (4 g) was added to a stirred mixture of 1-[1-(4-chlorophenyl)cyclobutyl]-2methoxyethanone (20 g), ammonium acetate (70 g) and methanol (300 ml) and the mixture allowed to stand at ambient temperature for 10 days. The mixture was poured into water (1 litre), basified with aqueous sodium carbonate solution and extracted with ether. The extract was evaporated to yield an oil which was poured into water, acidified with concentrated sulphuric acid and allowed to stand for 16 hours at ambient temperature and then heated to 90°-95° C. for 1 hour. The cooled mixture was washed with ether, basified and extracted with ether. The extracts were dried and evaporated to give an oil which was treated with concentrated hydrochloric acid and propan-2-ol. Evaporation to dryness gave a solid which was recrystallised from propan-2-ol to give 1-[1-(4-chlorophenyl)cyclobutyl]-2-methoxyethylamine hydrochloride (m.p. 207°-210° C.).

reactant | Sodium cyanoborohydride | 4 g | C(#N)[BH3-].[Na+]
reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-2methoxyethanone | 20 g | ClC1=CC=C(C=C1)C1(CCC1)C(COC)=O | C13H15ClO2
reactant | ammonium acetate | 70 g | C(C)(=O)[O-].[NH4+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | propan-2-ol | CC(C)O | C3H8O
solvent | water | O | H2O
solvent | water | 1 litre | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 1-[1-(4-chlorophenyl)cyclobutyl]-2-methoxyethylamine hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCC1)C(COC)N | InChI=1S/C13H18ClNO.ClH/c1-16-9-12(15)13(7-2-8-13)10-3-5-11(14)6-4-10;/h3-6,12H,2,7-9,15H2,1H3;1H
